US07074799B2
To a solution of 2-p-tolyl-3-trifluoromethyl-pyridine (8.4 mmol) in H2SO4 (6 mL) cautiously add fuming HNO3 (2 ml). Stir the mixture 60 minutes at room temperature. Pour the mixture onto ice-water (30 mL), extract with EtOAc, neutralize with 1 N NaOH, dry over Na2SO4, and concentrate under vacuum to obtain 2-(4-methyl-3-nitro-phenyl)-3-(trifluoromethyl)-pyridine.

reactant | 2-p-tolyl-3-trifluoromethyl-pyridine | 8.4 mmol | C1(=CC=C(C=C1)C1=NC=CC=C1C(F)(F)F)C | C13H10F3N
reactant | HNO3 | 2 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
product | 2-(4-methyl-3-nitro-phenyl)-3-(trifluoromethyl)-pyridine | CC1=C(C=C(C=C1)C1=NC=CC=C1C(F)(F)F)[N+](=O)[O-] | C13H9F3N2O2
